US09108938B2
2,3-Dichloro-N-[2-(4-methoxy-phenyl)-2-piperidin-1-yl-ethyl]-benzamide
From 2,3-dichlorobenzoic acid and 2-(4-methoxy-phenyl)-2-piperidin-1-yl-ethylamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(4-methoxy-phenyl)-2-piperidin-1-yl-ethylamine | COC1=CC=C(C=C1)C(CN)N1CCCCC1 | C14H22N2O
product | 2,3-Dichloro-N-[2-(4-methoxy-phenyl)-2-piperidin-1-yl-ethyl]-benzamide | ClC1=C(C(=O)NCC(N2CCCCC2)C2=CC=C(C=C2)OC)C=CC=C1Cl | C21H24Cl2N2O2
